US05179100
11-Amino-4,5-dihydro-2-(2-phenylethyl)-2H-pyrazolo [3,4-a]acridine
To a solution of 11-amino-4,5-dihydro-1H-pyrazolo[3,4-a]acridine (4.36 g) in dry DMF (130 ml) was slowly added 922 mg of NaH (60%). The reaction was stirred at room temperature for one hour, then (2-bromoethyl)benzene (3.23 ml) was added and the reaction stirred for four hours. An additional 230 mg of NaH (60%) was added, and then the reaction was stirred for a half hour, after which 0.8 ml of (2-bromoethyl)benzene was added and the reaction was stirred at room temperature overnight.

reactant | 11-amino-4,5-dihydro-1H-pyrazolo[3,4-a]acridine | 4.36 g | NC=1C2=CC=CC=C2N=C2CCC3=C(C12)NN=C3 | C14H12N4
reactant | NaH | 922 mg | [H-].[Na+]
reactant | (2-bromoethyl)benzene | 3.23 ml | BrCCC1=CC=CC=C1 | C8H9Br
reactant | NaH | 230 mg | [H-].[Na+]
reactant | (2-bromoethyl)benzene | 0.8 ml | BrCCC1=CC=CC=C1 | C8H9Br
solvent | DMF | 130 ml | CN(C)C=O | C3H7NO
product | 11-Amino-4,5-dihydro-2-(2-phenylethyl)-2H-pyrazolo [3,4-a]acridine | NC=1C2=CC=CC=C2N=C2CCC=3C(C12)=NN(C3)CCC3=CC=CC=C3 | C22H20N4
